US07951961B2
(+)-trans-2-(2-Chlorophenyl)-8-(2-hydroxymethyl-1-methyl-pyrrolidin-3-yl)-5,7-dihydroxy-chromen-4-one
Molten pyridine hydrochloride (4.1 g, 0.0354 mol) was added to (+)-trans-2-(2-chlorophenyl)-8-(2-hydroxymethyl-1-methyl-pyrrolidin-3-yl)-5,7-dimethoxy-chromen-4-one (0.4 g, 0.0009 mol) and heated at 180° C. for 1.5 h. The reaction mixture was cooled to 25° C., diluted with methanol (10 mL) and basified using sodium carbonate to pH 10. The mixture was filtered and the organic layer was concentrated. The residue was suspended in water (5 mL), stirred for 30 minutes, filtered and dried to obtain the title compound.

reactant | pyridine hydrochloride | 0.0354 mol, 4.1 g | Cl.N1=CC=CC=C1
reactant | (+)-trans-2-(2-chlorophenyl)-8-(2-hydroxymethyl-1-methyl-pyrrolidin-3-yl)-5,7-dimethoxy-chromen-4-one | 0.0009 mol, 0.4 g | ClC1=C(C=CC=C1)C=1OC2=C(C(=CC(=C2C(C1)=O)OC)OC)[C@H]1[C@@H](N(CC1)C)CO | C23H24ClNO5
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | (+)-trans-2-(2-Chlorophenyl)-8-(2-hydroxymethyl-1-methyl-pyrrolidin-3-yl)-5,7-dihydroxy-chromen-4-one | ClC1=C(C=CC=C1)C=1OC2=C(C(=CC(=C2C(C1)=O)O)O)[C@H]1[C@@H](N(CC1)C)CO | C21H20ClNO5
